* Behavioral models for schematic-driven sim of the audio board.
* Idealized but topology-accurate: real device levels/noise still need bench/vendor models.

* --- OPA1678: dual op-amp. nodes: out1 in1- in1+ out2 in2- in2+ V+ V- ---
.subckt OPA1678 o1 n1 p1 o2 n2 p2 vp vm
* single-pole op-amp: DC gain 1e5, GBW ~ set by output RC (rails only used for biasing refs)
Be1 e1 0 V = 1e5*(V(p1)-V(n1))
Ro1 e1 o1 1k
Co1 o1 0 100p
Be2 e2 0 V = 1e5*(V(p2)-V(n2))
Ro2 e2 o2 1k
Co2 o2 0 100p
.ends

* --- LM13700 half: OTA + Darlington buffer. nodes: iabc in+ in- out buf_in buf_out V+ V- ---
* Iout = gm*(V+in - V-in), gm ~ 19.2 * Iabc (A/V per A of Iabc). buffer = unity follower.
.subckt LM13700_HALF iabc inp inn out bin bout vp vm
* Iabc = (V(iabc)-V-)/Rabc ; Iout = gm*(V+in - V-in), gm ~ 19.2*Iabc
Rabc iabc vm 1k
Bota out 0 I = 19.2e-3 * (V(iabc)-V(vm)) * (V(inp)-V(inn))
Rota out 0 1e6
* Darlington buffer = unity follower
Bbuf bout 0 V = V(bin)
Rbuf bout 0 1k
.ends
